US05286875
Preparation of 4-acetoxycaprolactone
50 g of 4-acetoxycyclohexanone, dissolved in 150 ml of chloroform, were treated at 40° C. in the course of 40 minutes, with stirring, with 136 g of m-chloroperbenzoic acid (55% strength), dissolved in 500 ml of chloroform. The reaction mixture was stirred at 40° C. for 2 hours. After cooling to room temperature, the precipitated solid (m-chlorobenzoic acid), was filtered off with suction. The chloroform phase was extracted twice by shaking with 20% strength aqueous sodium carbonate solution, dried over sodium sulfate and concentrated on a rotary evaporator. 46.4 g of 4-acetoxycaprolactone (84%, based on the 4-acetoxycyclohexanone employed) were recovered from the residue obtained in this way by bulb tube distillation.

reactant | 4-acetoxycyclohexanone | 50 g | C(C)(=O)OC1CCC(CC1)=O | C8H12O3
reactant | m-chloroperbenzoic acid | 136 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-acetoxycaprolactone | C(C)(=O)OC1CCC(=O)OCC1 | C8H12O4
